US09278968B2
To a mixture of 1.44 g of methyl 4-(1-nitroethyl)benzoate and 29 ml of DMF were added 612 mg of paraformaldehyde and 150 mg of sodium methoxide, followed by stirring at room temperature for 18 hours. To the reaction mixture was added a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated. The obtained residue was purified by silica gel column chromatography to obtain 730 mg of methyl 4-(1-hydroxy-2-nitropropan-2-yl)benzoate.

reactant | methyl 4-(1-nitroethyl)benzoate | 1.44 g | [N+](=O)([O-])C(C)C1=CC=C(C(=O)OC)C=C1 | C10H11NO4
reactant | paraformaldehyde | 612 mg | C=O | CH2O
reactant | sodium methoxide | 150 mg | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DMF | 29 ml | CN(C)C=O | C3H7NO
product | methyl 4-(1-hydroxy-2-nitropropan-2-yl)benzoate | 730 mg | OCC(C)([N+](=O)[O-])C1=CC=C(C(=O)OC)C=C1 | C11H13NO5
